US07994163B2
3-tert-Butoxycarbonyl-7-chloro-6-hydroxymethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Add a solution of 7-chloro-6-(ethoxycarbonyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (108 g, 426 mmol) in anhydrous THF (540 mL) over 30 min to a cold slurry of 1M lithium aluminum hydride in THF (533 mL, 533 mmol) in heptane (1.1 L). Maintain the reaction temperature below 5° C. during the addition. Warm the reaction to 40° C. and stir for 4 h (monitor reaction by HPLC). Cool the reaction to 0° C. and cautiously add water (162 mL). To the resulting heterogeneous off-white slurry, add triethylamine (217 g, 2130 mmol) and di-tert-butyl dicarbonate (139 g, 639 mmol). Stir the reaction mixture for 16 h at room temperature. Filter off any solids and wash with THF. Add dimethylethylenediamine (119 g, 1277 mmol) to the filtrate and stir for 30 min at room temperature. Partition the mixture between 20% citric acid and EtOAc. Collect the organic layer and wash with aqueous saturated NaHCO3. Collect the organic layer, dry over Na2SO4 and concentrate in vacuo to give an off-white solid. Slurry the solid in heptane at 60° C. with vigorous stirring for 1 h. Cool the slurry to room temperature, filter and wash the solid with heptane, and dry in vacuo to obtain the desired intermediate as a white solid (115 g, 87%). MS (ES+) m/z: 212 (M-Boc+H)+.

reactant | 7-chloro-6-(ethoxycarbonyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 426 mmol, 108 g | ClC1=C(C2=C(CCNCC2)C=C1)C(=O)OCC | C13H16ClNO2
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | triethylamine | 2130 mmol, 217 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 639 mmol, 139 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylethylenediamine | 1277 mmol, 119 g | CNCCNC | C4H12N2
solvent | THF | 540 mL | C1CCOC1 | C4H8O
solvent | heptane | 1.1 L | CCCCCCC | C7H16
solvent | THF | 533 mmol, 533 mL | C1CCOC1 | C4H8O
solvent | water | 162 mL | O | H2O
product | 3-tert-Butoxycarbonyl-7-chloro-6-hydroxymethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 115 g, 87% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)CO | C16H22ClNO3
